### PR TITLE
feat: some lemmas about (strongly) complete sequences

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR include some easy lemmas about Complete/Strongly complete sequences.

### CODE REVIEW

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 1]
```diff
@@ -25,28 +26,83 @@ open scoped List
...
+
+/-- A sequence `A` is strongly complete iff its range is strongly complete. -/
+theorem isAddStronglyComplete_iff_isAddStronglyCompleteNatSeq (A : ℕ → M) :
+    IsAddStronglyComplete (.range A) ↔ IsAddStronglyCompleteNatSeq A where
+  mp h n := by
+    classical
+    exact (isAddCompleteNatSeq_iff_isAddCompleteNatSeq (fun m => A (n + m))).1 (isAddComplete_mono
+      (A := .range A \ ((Finset.range n).image A)) (fun _ ⟨⟨y, hy⟩, q⟩ => ⟨y - n, by grind⟩)
+      (h (Finset.finite_toSet _)))
+  mpr h B hB := by sorry
```
Comment (CoolRmal) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: I start to doubt whether this is true. Perhaps one needs `A` to be injection for this direction.

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 2]
```diff
@@ -25,28 +26,83 @@ open scoped List
 def subsetSums (A : Set M) : Set M :=
   {n | ∃ B : Finset M, B.toSet ⊆ A ∧ n = ∑ i ∈ B, i}
 
+/-- If `A ⊆ B`, then `subsetSums A ⊆ subsetSums B`. -/
+theorem subsetSums_mono {A B : Set M} (h : A ⊆ B) : subsetSums A ⊆ subsetSums B :=
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean:31]:
```suggestion
@[gcongr]
theorem subsetSums_mono {A B : Set M} (h : A ⊆ B) : subsetSums A ⊆ subsetSums B :=
```

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 3]
```diff
@@ -25,28 +26,83 @@ open scoped List
...
+  fun _ ⟨C, hC⟩ => ⟨C, hC.1.trans h, hC.2⟩
+
 /-- The set of subset sums of a sequence `ℕ → M`. -/
 def subseqSums (A : ℕ → M) : Set M :=
   {n | ∃ B : Finset ℕ, B.toSet.InjOn A ∧ n = ∑ i ∈ B, A i}
 
+/-- The set of subset sums of a sequence is `ℕ → M` is equal to the set of subset sums of its
+range. -/
+theorem subseqSums_eq_subsetSums (A : ℕ → M) : subsetSums (Set.range A) = subseqSums A := by
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
@[simp]
theorem subsetSums_range (A : ℕ → M) : subsetSums (Set.range A) = subseqSums A := by
```
but honestly it may be that we don't even need `subseqSums`?

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 4]
```diff
@@ -25,28 +26,83 @@ open scoped List
...
 
+variable [Preorder M]
+
 /-- A set `A ⊆ M` is complete if every sufficiently large element of `M` is a subset sum of `A`. -/
-def IsAddComplete [Preorder M] (A : Set M) : Prop :=
+def IsAddComplete (A : Set M) : Prop :=
   ∀ᶠ k in Filter.atTop, k ∈ subsetSums A
 
+/-- If `A ⊆ B` and `A` is complete, then `B` is also complete. -/
+theorem isAddComplete_mono {A B : Set M} (h : A ⊆ B) (ha : IsAddComplete A) : IsAddComplete B := by
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
@[gcongr]
theorem isAddComplete_mono {A B : Set M} (h : A ⊆ B) (ha : IsAddComplete A) : IsAddComplete B := by
```
maybe?

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 5]
```diff
@@ -25,28 +26,83 @@ open scoped List
...
+  filter_upwards [ha] with x hx
+  exact (subsetSums_mono h) hx
+
+/-- A set `A ⊆ M` is complete if every sufficiently large element of `M` is a subset sum of `A`. -/
+def IsAddStronglyComplete (A : Set M) : Prop :=
+  ∀ {B : Set M}, B.Finite → IsAddComplete (A \ B)
+
+/-- A strongly complete set is complete. -/
+theorem isAddComplete_of_isAddStronglyComplete {A : Set M} (hA : IsAddStronglyComplete A) :
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
theorem IsAddStronglyComplete.isAddComplete {A : Set M} (hA : IsAddStronglyComplete A) :
```
for dot notation

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 6]
```diff
@@ -25,28 +26,83 @@ open scoped List
...
+
 /-- A sequence `A` is complete if every sufficiently large element of `M` is a sum of
 distinct terms of `A`. -/
-def IsAddCompleteNatSeq [Preorder M] (A : ℕ → M) : Prop :=
+def IsAddCompleteNatSeq (A : ℕ → M) : Prop :=
   ∀ᶠ k in Filter.atTop, k ∈ subseqSums A
 
+/-- A sequence `A` is complete iff its range is complete. -/
+theorem isAddCompleteNatSeq_iff_isAddCompleteNatSeq (A : ℕ → M) : IsAddComplete (.range A) ↔
+    IsAddCompleteNatSeq A where
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
@[simp]
theorem isAddComplete_range {A : ℕ → M} :
    IsAddComplete (.range A) ↔ IsAddCompleteNatSeq A where
```
and again this makes me think that we don't need `IsAddCompleteNatSeq`

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 7]
```diff
@@ -25,28 +26,83 @@ open scoped List
...
+  mp h := by filter_upwards [h] with x hx; simp [← subseqSums_eq_subsetSums A, hx]
+  mpr h := by filter_upwards [h] with x hx; simp [subseqSums_eq_subsetSums A, hx]
+
 /-- A sequence `A` is strongly complete if `fun m => A (n + m)` is still complete for all `n`. -/
-def IsAddStronglyCompleteNatSeq [Preorder M] (A : ℕ → M) : Prop :=
+def IsAddStronglyCompleteNatSeq (A : ℕ → M) : Prop :=
   ∀ n, IsAddCompleteNatSeq (fun m => A (n + m))
 
+/-- A strongly complete sequence is complete. -/
+theorem isAddCompleteNatSeq_of_isAddStronglyCompleteNatSeq {A : ℕ → M}
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
theorem IsAddStronglyCompleteNatSeq.isAddCompleteNatSeq {A : ℕ → M}
```

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 8]
```diff
@@ -14,8 +14,9 @@ See the License for the specific language governing permissions and
 limitations under the License.
 -/
 
-import Mathlib.Algebra.BigOperators.Group.Finset.Defs
+import Mathlib.Algebra.BigOperators.Group.Finset.Basic
 import Mathlib.Order.Filter.AtTopBot.Defs
+import Mathlib.Data.Finset.Preimage
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
import Mathlib.Data.Finset.Preimage
import Mathlib.Order.Filter.AtTopBot.Defs
```

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: Yes, what if `A n := 1`? Then it is a complete sequence, but its range is finite, so certainly incomplete

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean (hunk 6 above)
Comment (CoolRmal) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: I mean from what I proved, it indeed make sense to remove `subseqSums`, `IsAddCompleteNatSeq` and replace them by `subsetSums (Set.range A)`, `IsAddComplete (Set.range A)` separately. Do you think I should do this in all problems using these definitions?

Comment (YaelDillies) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: Please do!

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: The precise property you need is that `A` has finite fiber

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean (hunk 3 above)
Comment (CoolRmal) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: I deleted this theorem as we don't need `subseqSums`.

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean (hunk 6 above)
Comment (CoolRmal) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: I think only Erdos 348 is using `IsAddCompleteNatSeq`.

Comment (YaelDillies) [reply FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: Even there it looks like it isn't truly about sequences

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 9]
```diff
@@ -25,28 +26,69 @@ open scoped List
...
+def IsAddComplete (A : Set M) : Prop :=
   ∀ᶠ k in Filter.atTop, k ∈ subsetSums A
 
-/-- A sequence `A` is complete if every sufficiently large element of `M` is a sum of
-distinct terms of `A`. -/
-def IsAddCompleteNatSeq [Preorder M] (A : ℕ → M) : Prop :=
-  ∀ᶠ k in Filter.atTop, k ∈ subseqSums A
+/-- If `A ⊆ B` and `A` is complete, then `B` is also complete. -/
+@[gcongr]
+theorem isAddComplete_mono {A B : Set M} (h : A ⊆ B) (ha : IsAddComplete A) : IsAddComplete B := by
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
theorem IsAddComplete.mono {A B : Set M} (h : A ⊆ B) (ha : IsAddComplete A) : IsAddComplete B := by
```

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 10]
```diff
@@ -25,28 +26,69 @@ open scoped List
...
+/-- A set `A ⊆ M` is complete if every sufficiently large element of `M` is a subset sum of `A`. -/
+def IsAddStronglyComplete (A : Set M) : Prop :=
+  ∀ ⦃B : Set M⦄, B.Finite → IsAddComplete (A \ B)
+
+/-- A strongly complete set is complete. -/
+theorem IsAddStronglyComplete.isAddComplete {A : Set M} (hA : IsAddStronglyComplete A) :
+    IsAddComplete A := by simpa using hA Set.finite_empty
+
+/-- If `A ⊆ B` and `A` is strongly complete, then `B` is also strongly complete. -/
+theorem isAddStronglyComplete_mono {A B : Set M} (h : A ⊆ B) (ha : IsAddStronglyComplete A) :
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]: Same here

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 11]
```diff
@@ -25,28 +26,69 @@ open scoped List
...
+/-- If the range of a sequence `A` is strongly complete, then `A` is strongly complete. -/
+theorem IsAddStronglyComplete.isAddStronglyCompleteNatSeq {A : ℕ → M}
+    (h : IsAddStronglyComplete (.range A)) : IsAddStronglyCompleteNatSeq A :=
+  fun n => (isAddComplete_mono (A := .range A \ ((Finset.range n).image A)) (fun _ ⟨⟨y, hy⟩, q⟩ =>
+    ⟨y - n, by grind⟩) (h (Finset.finite_toSet _)))
+
+/-- If `A` is strongly complete and the preimage of each element is finite, then the range of `A`
+is strongly complete.-/
+theorem IsAddStronglyCompleteNatSeq.isAddStronglyComplete  {A : ℕ → M}
+    (h : IsAddStronglyCompleteNatSeq A) (hA : ∀ m, (A ⁻¹' {m}).Finite):
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
    (h : IsAddStronglyCompleteNatSeq A) (hA : ∀ m, (A ⁻¹' {m}).Finite) :
```

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 12]
```diff
@@ -25,28 +26,69 @@ open scoped List
...
+open Classical in
+/-- If the range of a sequence `A` is strongly complete, then `A` is strongly complete. -/
+theorem IsAddStronglyComplete.isAddStronglyCompleteNatSeq {A : ℕ → M}
+    (h : IsAddStronglyComplete (.range A)) : IsAddStronglyCompleteNatSeq A :=
+  fun n => (h (Finset.finite_toSet _)).mono (A := .range A \ ((Finset.range n).image A))
+    (fun _ ⟨⟨y, hy⟩, q⟩ => ⟨y - n, by grind⟩)
+
+/-- If `A` is strongly complete and the preimage of each element is finite, then the range of `A`
+is strongly complete.-/
+theorem IsAddStronglyCompleteNatSeq.isAddStronglyComplete  {A : ℕ → M}
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
is strongly complete. -/
theorem IsAddStronglyCompleteNatSeq.isAddStronglyComplete {A : ℕ → M}
```

File: FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean [hunk 13]
```diff
@@ -25,28 +26,69 @@ open scoped List
...
+
+/-- A strongly complete sequence is complete. -/
+theorem IsAddStronglyCompleteNatSeq.isAddComplete {A : ℕ → M}
+    (hA : IsAddStronglyCompleteNatSeq A) :
+    IsAddComplete (Set.range A) := by simpa using hA 0
+
+open Classical in
+/-- If the range of a sequence `A` is strongly complete, then `A` is strongly complete. -/
+theorem IsAddStronglyComplete.isAddStronglyCompleteNatSeq {A : ℕ → M}
+    (h : IsAddStronglyComplete (.range A)) : IsAddStronglyCompleteNatSeq A :=
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/AdditivelyComplete.lean]:
```suggestion
theorem IsAddStronglyCompleteNatSeq.of_isAddStronglyComplete {A : ℕ → M}
    (h : IsAddStronglyComplete (.range A)) : IsAddStronglyCompleteNatSeq A :=
```
since the conclusion has a free variable argument and the assumption does not

**Review by YaelDillies — APPROVED** [review]
Thanks!
